US05976858
30 mL of a 4.0 M solution of HCl in dioxane was added to the Boc-PheOSET from the previous step. The mixture was stirred for 90 minutes. The solvents were evaporated, giving a waxy solid, phenylalanine silylethyl ester hydrochloride (HCl.PheOSET).

reactant | HCl | Cl | ClH
reactant | tert-butoxycarbonylphenylalanine, silylethyl ester | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC[SiH3] | C16H25NO4Si
solvent | dioxane | O1CCOCC1 | C4H8O2
product | phenylalanine silylethyl ester hydrochloride | Cl.[SiH3]CCOC([C@@H](N)CC1=CC=CC=C1)=O | InChI=1S/C11H17NO2Si.ClH/c12-10(11(13)14-6-7-15)8-9-4-2-1-3-5-9;/h1-5,10H,6-8,12H2,15H3;1H/t10-;/m0./s1
